US05235061
A stirrer was added to a 250 ml, round bottomed flask, which was equipped with a bubbling column linked to a dry ice/aceton condenser and a chlorine gas cylinder. To the flask were added 100 g (0.41 mole) of 1,1,1,3-tetrachloro-3-methyl-1,3-disilabutane and 1 g of a reaction initiator, azobisisobutyronitrile, using carbon tetrachloride as a solvent. The obtained mixture was photoreacted for 5 hrs using a sun lamp, while bubbling chlorine gas and refluxing carbon tetrachloride. After confirming the degree of the reaction process by gas chromatography, the reaction mixture was distilled under vacuum to obtain 38 g of 1,1,1,3,4-pentachloro-3-methyl-1,3-disilabutane.

reactant | chlorine | ClCl | Cl2
reactant | 1,1,1,3-tetrachloro-3-methyl-1,3-disilabutane | 0.41 mole, 100 g | Cl[Si](C[Si](C)(C)Cl)(Cl)Cl | C3H8Cl4Si2
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1,1,1,3,4-pentachloro-3-methyl-1,3-disilabutane | 38 g | Cl[Si](C[Si](CCl)(C)Cl)(Cl)Cl | C3H7Cl5Si2
